US06858633B1
5-Fluoro-2-(4′-acetamido-3′-methylphenyl)benzothiazole (Iam)
Acetyl Chloride (0.09g, 1.55 mmol) was added to a solution of 5-fluoro2-(4′-amino-3′-methylphenyl)benzothiazole (0.2 g, 0.78 mmol) in chloroform (5 ml) containing triethylamine (86 mg, 0.85 mmol). The resulting solution was stirred for 30 min, then poured into water (20 ml). The organic layer was removed, dried (Na2SO4) and evaporated. Recrystallisation from ethanol gave a white solid.

reactant | Acetyl Chloride | 1.55 mmol, 0.09g | C(C)(=O)Cl | C2H3ClO
reactant | 5-fluoro2-(4′-amino-3′-methylphenyl)benzothiazole | 0.78 mmol, 0.2 g | FC=1C=CC2=C(N=C(S2)C2=CC(=C(C=C2)N)C)C1 | C14H11FN2S
reactant | triethylamine | 0.85 mmol, 86 mg | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Fluoro-2-(4′-acetamido-3′-methylphenyl)benzothiazole | FC=1C=CC2=C(N=C(S2)C2=CC(=C(C=C2)NC(C)=O)C)C1 | C16H13FN2OS
